US03963698
The procedure and reactants of Example 1 were used except that sodium m-nitrophenolate was substituted for sodium p-nitrophenolate. 0.6 grams of m-nitroanisole (about 85 percent) were obtained.

reactant | sodium m-nitrophenolate | [N+](=O)([O-])C=1C=C(C=CC1)[O-].[Na+]
reactant | sodium p-nitrophenolate | [N+](=O)([O-])C1=CC=C(C=C1)[O-].[Na+]
product | m-nitroanisole | 0.6 grams, about 85 percent | [N+](=O)([O-])C=1C=C(C=CC1)OC | C7H7NO3
